US07407950B2
N-(2-methyl-benzoxazol-5-yl)-1-[3-(trifluoromethyl)phenyl]-1H-indole-2-carboxamide
0.091 ml (0.6 mmol) of diethylcyanophosphonate, 0.168 ml (0.6 mmol) of triethylamine and 0.111 g (0.6 mmol) of 5-amino-2-methylbenzoxazole hydrochloride are added to a solution of 0.152 g (0.5 mmol) of 1-[3-(trifluoromethyl)phenyl]-1H-indole-2-carboxylic acid (JP2001151771A2) in 3 ml of dimethylformamide. The mixture is stirred overnight at room temperature and concentrated under reduced pressure, and the residue is taken up in water and dichloromethane. After separation of the phases by settling, the organic phase is dried and evaporated under reduced pressure. The residue is purified by preparative chromatography. 0.102 g of solid is obtained.

reactant | diethylcyanophosphonate | 0.6 mmol, 0.091 ml | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.6 mmol, 0.168 ml | C(C)N(CC)CC | C6H15N
reactant | 5-amino-2-methylbenzoxazole hydrochloride | 0.6 mmol, 0.111 g | Cl.NC=1C=CC2=C(N=C(O2)C)C1
reactant | 1-[3-(trifluoromethyl)phenyl]-1H-indole-2-carboxylic acid | 0.5 mmol, 0.152 g | FC(C=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(=O)O)(F)F | C16H10F3NO2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(2-methyl-benzoxazol-5-yl)-1-[3-(trifluoromethyl)phenyl]-1H-indole-2-carboxamide | 0.102 g | CC=1OC2=C(N1)C=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C2=CC(=CC=C2)C(F)(F)F | C24H16F3N3O2
